US07342115B2
A stirred solution of 6-(2,6-diethyl-phenyl)-4-methoxy-3-trimethylsilanyloxy methyl-pyridine-2-carbonitrile (200 mg, 0.54 mmol) in CH3CN (5 mL) is treated with CBr4 (270 mg, 0.81 mmol) and triphenylphosphine (215 mg, 0.81 mmol) at 0° C. under nitrogen. After one hour, acetone (50 mg) is added and the resulting mixture is stirred at room temperature overnight. Water (5 mL) and ether (10 mL) are then added to the mixture, and the organic layer is separated. The organic layer is washed with water, dried, and concentrated to give 3-bromomethyl-6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-2-carbonitrile.

reactant | 6-(2,6-diethyl-phenyl)-4-methoxy-3-trimethylsilanyloxy methyl-pyridine-2-carbonitrile | 0.54 mmol, 200 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C#N)CO[Si](C)(C)C)OC | C21H28N2O2Si
reactant | CBr4 | 0.81 mmol, 270 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.81 mmol, 215 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetone | 50 mg | CC(=O)C | C3H6O
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | Water | 5 mL | O | H2O
product | 3-bromomethyl-6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-2-carbonitrile | BrCC=1C(=NC(=CC1OC)C1=C(C=CC=C1CC)CC)C#N | C18H19BrN2O
